US06573274B1
A mixture of 2-amino-6-bromo-3-nitropyridine (4.5 g), propionic acid anhydride (12.2 ml), propionic acid (12.2 ml) and conc. sulfuric acid (101 mg) was stirred in an oil bath at 65° C. for 30 min, and left standing overnight. Water (122 ml) was added to the reaction mixture under ice-cooling, and stirred at the same temperature for 30 min. The precipitate was collected by filtration, washed with water, suspended in diisopropyl ether (20 ml) and stirred at room temperature for 30 min. The precipitate was stirred and washed with diisopropyl ether to give 6-bromo-3-nitro-2-(propionylamino)pyridine (5.59 g) as a pale-brown powder.

reactant | 2-amino-6-bromo-3-nitropyridine | 4.5 g | NC1=NC(=CC=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | propionic acid anhydride | 12.2 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | 12.2 ml | C(CC)(=O)O | C3H6O2
reactant | sulfuric acid | 101 mg | S(O)(O)(=O)=O | H2O4S
solvent | Water | 122 ml | O | H2O
product | 6-bromo-3-nitro-2-(propionylamino)pyridine | 5.59 g | BrC1=CC=C(C(=N1)NC(CC)=O)[N+](=O)[O-] | C8H8BrN3O3
